US07700641B2
Synthesis of 1′-[(5-chloro-2-thienyl)methyl]-5′-fluorospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using 5′-fluorospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 5-chloro-2-(chloromethyl)thiophene to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (76%) as a colorless solid: mp 142-144° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.22-7.17 (m, 1H), 7.14-7.13 (m, 1H), 7.12-7.10 (m, 2H), 6.96 (d, 1H), 6.68 (s, 1H), 6.13 (s, 1H), 5.91 (d, 2H), 5.02 (ABq, 2H), 4.73 (ABq, 2H); 13C NMR (75 MHz, DMSO-d6) δ 176.9, 161.0, 157.8, 156.0, 149.0, 142.2, 138.3, 138.2 (d, 4JCF=7.0 Hz) 133.6 (d, 3JCF=33 Hz), 128.3, 127.8, 127.1, 119.5, 115.6 (d, 1JCF=93 Hz), 112.5 (d, 1JCF=100 Hz), 110.8 (d, 3JCF=32 Hz), 103.2, 102.0, 93.9, 79.8, 58.2 (d, 4JCF=7.0 Hz), 39.0; MS (ES+) m/z 430.1 (M+1).

reactant | 5′-fluorospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | FC=1C=C2C3(C(NC2=CC1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10FNO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 5-chloro-2-(chloromethyl)thiophene | ClC1=CC=C(S1)CCl | C5H4Cl2S
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-[(5-chloro-2-thienyl)methyl]-5′-fluorospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | ClC1=CC=C(S1)CN1C(C2(C3=CC(=CC=C13)F)COC=1C2=CC2=C(OCO2)C1)=O | C21H13ClFNO4S
